US07683056B2
(8aS)-Hexahydropyrrolo[1,2-a]pyrazin-3(4H)-one (D12)
1,1-Dimethylethyl (2S)-2-{[(chloroacetyl)amino]methyl}-1-pyrrolidinecarboxylate (D 11; 1.24, 4.5 mmol), was dissolved in 20 ml of DCM and treated with TFA (5 ml) at room temperature. After 1 h complete conversion into the desired material was observed and the reaction mixture was loaded onto a SCX cartridge. The product obtained after elution with 2M NH3 in MeOH was then dissolved in acetonitrile (30 ml) and treated with sodium carbonate (1.43 g, 10.34 mmol). The reaction mixture was heated at 60° C. for 6 hours; the crude obtained after removal is purified by flash-chromatography eluting with dichloromethane/MeOH 95/5 affording 310 mg.

reactant | 1,1-Dimethylethyl (2S)-2-{[(chloroacetyl)amino]methyl}-1-pyrrolidinecarboxylate | 4.5 mmol | ClCC(=O)NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C12H21ClN2O3
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium carbonate | 10.34 mmol, 1.43 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (8aS)-Hexahydropyrrolo[1,2-a]pyrazin-3(4H)-one | C1[C@H]2N(CC(N1)=O)CCC2 | C7H12N2O
